US06716851B2
1-(4-Methoxy-2-aminophenyl)piperidine:
To a solution of 1-(4-methoxy-2-nitrophenyl)piperidine (238 mg, 1.01 mmol) in anhydrous ethanol (20 ml) was slowly added anhydrous tin chloride (772 mg, 4.07 mmol) at room temperature. The mixture was refluxed for 1 h. The mixture was cooled to room temperature and then rotary evaporated to get an oily liquid. The liquid was basified with aqueous 2N NaOH (20 ml) to a final pH of 10. The resulting precipitate was filtered and washed with water. The aqueous solution was extracted with ethyl acetate (75 ml), washed with water (2×20 ml) and dried over anhydrous sodium sulfate. The ethyl acetate solution was rotary evaporated to give a dark brown liquid (153 mg, 74%). 1H NMR (CDCl3): 6.90 (d, J=8.7 Hz, 1H), 6.29 (d, J=2.7 Hz, 1H), 6.26 (dd, J=2.7, 8.1 Hz, 1H), 4.04 (bs, 2H), 3.69 (s, 3H), 2.75 (s, 4H), 1.70-1.63 (m, 4H), 1.54 (s, 2H).

reactant | 1-(4-methoxy-2-nitrophenyl)piperidine | 1.01 mmol, 238 mg | COC1=CC(=C(C=C1)N1CCCCC1)[N+](=O)[O-] | C12H16N2O3
reactant | tin chloride | 4.07 mmol, 772 mg | [Sn](Cl)(Cl)(Cl)Cl
reactant | NaOH | 2N, 20 ml | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(4-Methoxy-2-aminophenyl)piperidine | 153 mg, 74% | COC1=CC(=C(C=C1)N1CCCCC1)N | C12H18N2O
